US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-methyl-1H-imidazole-2-carboxamide
Using 1-methyl-1H-imidazole-2-carboxylic acid (36.7 mg, 0.29 mol), tetrahydrofuran (1.5 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (51 μL, 0.58 mmol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropylcarboxamide (75 mg, 0.24 mmol) and N,N-dimethylacetamide (1.5 mL) as starting materials and in the same manner as in Example 119, the title compound (48 mg, 47%) was obtained as a white powder.

reactant | 1-methyl-1H-imidazole-2-carboxylic acid | 0.29 mol, 36.7 mg | CN1C(=NC=C1)C(=O)O | C5H6N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.58 mmol, 51 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropylcarboxamide | 0.24 mmol, 75 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
solvent | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-methyl-1H-imidazole-2-carboxamide | 48 mg, 47% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C=2N(C=CN2)C)C1 | C21H19N7O3
